US09120822B2
Benzyl alcohol (5.78 g, 53.43 mmol, 2.5 eq) is added at −45° C. to a stirred solution of 4-chloro-6-methoxy-[1,5]naphthyridine-3-carboxylic acid (5.1 g, 21.37 mmol, 1.0 eq) in N,N-dimethylformamide (100 mL), followed by sodium hydride (2.46 g, 53.43 mmol, 2.5 eq). After 2 hours stirring at −40° C. and 24 hours stirring at room temperature, the reaction mixture is quenched with ice water, the pH is adjusted to 3-4 by the addition of a 2N hydrochloric acid aqueous solution. The resulting precipitate is collected by filtration, washed with water and dried under high vacuum to afford 4-benzyloxy-6-methoxy-[1,5]naphthyridine-3-carboxylic acid as a light red solid (6.5 g, 98% yield).

reactant | Benzyl alcohol | 53.43 mmol, 5.78 g, 2.5 eq | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-chloro-6-methoxy-[1,5]naphthyridine-3-carboxylic acid | 21.37 mmol, 5.1 g, 1.0 eq | ClC1=C(C=NC2=CC=C(N=C12)OC)C(=O)O | C10H7ClN2O3
reactant | sodium hydride | 53.43 mmol, 2.46 g, 2.5 eq | [H-].[Na+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-benzyloxy-6-methoxy-[1,5]naphthyridine-3-carboxylic acid | 6.5 g, 98% yield | C(C1=CC=CC=C1)OC1=C(C=NC2=CC=C(N=C12)OC)C(=O)O | C17H14N2O4
